US06403639B1
To 6.25 g of 4-acetoxy-3-t-butylphenol dissolved in 15 ml of trifluoroacetic acid was added 4.63 g of hexamethylenetetramine and the mixture was heated under reflux for 1 hour. The reaction mixture was allowed to attain room temperature, then poured into water and extracted with ethyl acetate. The organic layers were successively washed with a 1N aqueous sodium hydroxide solution, water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 20% ethyl acetate) to give 3.68 g of 5-acetoxy-4-t-butyl-2-hydroxybenzaldehyde as a pale yellow oil (52%).

reactant | 4-acetoxy-3-t-butylphenol | 6.25 g | C(C)(=O)OC1=C(C=C(C=C1)O)C(C)(C)C | C12H16O3
reactant | hexamethylenetetramine | 4.63 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | O | H2O
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-acetoxy-4-t-butyl-2-hydroxybenzaldehyde | 3.68 g, 52% | C(C)(=O)OC=1C(=CC(=C(C=O)C1)O)C(C)(C)C | C13H16O4
